US05385925
a) 4'-[[2-n-Butyl-6-(3,3-dimethylglutarimido)-benzimidazol-1-yl]methyl]-2-(1-triphenylmethyl-tetrazol-5-yl)-biphenyl
1.8 g (3.3 mMol) of 4'-bromomethyl-2-(1-triphenylmethyl-tetrazol-5-yl)-biphenyl are added to a solution of 1.04 g (3.3 mMol) of 2-n-butyl-5-(3,3-dimethyl-glutarimido)-benzimidazole and 425 mg (3.8 mMol) of potassium tert.-butoxide in 25 ml of dimethylsulphoxide. The mixture is stirred for 3 hours at ambient temperature, then stirred into 150 ml of water, extracted three times with 30 ml of ethyl acetate, then the organic extracts are dried and concentrated by evaporation. The residue obtained is purified by column chromatography (300 g of silica gel; eluant: ethyl acetate/petroleum ether (2:1)).

reactant | 4'-bromomethyl-2-(1-triphenylmethyl-tetrazol-5-yl)-biphenyl | 3.3 mMol, 1.8 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
reactant | 2-n-butyl-5-(3,3-dimethyl-glutarimido)-benzimidazole | 3.3 mMol, 1.04 g | C(CCC)C=1NC2=C(N1)C=CC(=C2)N2C(CC(CC2=O)(C)C)=O | C18H23N3O2
reactant | potassium tert.-butoxide | 3.8 mMol, 425 mg | CC(C)([O-])C.[K+]
reactant | water | 150 ml | O | H2O
solvent | dimethylsulphoxide | 25 ml | CS(=O)C | C2H6OS
product | 4'-[[2-n-Butyl-6-(3,3-dimethylglutarimido)-benzimidazol-1-yl]methyl]-2-(1-triphenylmethyl-tetrazol-5-yl)-biphenyl | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=C(C=C2)N2C(CC(CC2=O)(C)C)=O | C51H47N7O2
